US04033996
A soluton is prepared from ethyl 7-{N-[4-(2-tetrahydropyranyloxy)nonyl]methanesulfonamido}-2-methylheptanoate (4.9 g., 0.01 mole), ethanol (50 ml.), and 4 drops of hydrochloric acid (conc.), and kept at ambient temperature for 4.5 hours. Then to the reaction is added a solution of sodium hydroxide (0.72 g., 0.018 mole) in water (10 ml.) and the reaction is kept at ambient temperature for an additional 20 hours. Most of the ethanol is removed in vacuo and the residue dissolved in water (100 ml.). The solution is extracted once with ether (75 ml.). then acidified with hydrochloric acid (dil.). The oil that separates is extracted into ether, the ether is washed with brine, dried over sodium sulfate, then removed under vacuum to give 7-[N-(4-hydroxynonyl)methanesulfonamido]-2-methylheptanoic acid as a yellow liquid.

reactant | ethyl 7-{N-[4-(2-tetrahydropyranyloxy)nonyl]methanesulfonamido}-2-methylheptanoate | 0.01 mole, 4.9 g | O1C(CCCC1)OC(CCCN(S(=O)(=O)C)CCCCCC(C(=O)OCC)C)CCCCC | C25H49NO6S
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.018 mole, 0.72 g | [OH-].[Na+]
catalyst | hydrochloric acid | 4 drops | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 7-[N-(4-hydroxynonyl)methanesulfonamido]-2-methylheptanoic acid | OC(CCCN(S(=O)(=O)C)CCCCCC(C(=O)O)C)CCCCC | C18H37NO5S
